US05545737
A further aspect of the present invention comprises treating (S)-9-fluoro-3-methyl-10-(4-methyl-1-piperazinyl)-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid in an aqueous solvent of relatively high water content or water to produce (S)-9-fluoro-3-methyl-10-(4-methyl-1-piperazinyl)-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid monohydrate. Here, the solvent has a water content which substantially prevents hemihydrate formation. The aqueous solvent is preferably aqueous ethanol.

reactant | (S)-9-fluoro-3-methyl-10-(4-methyl-1-piperazinyl)-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | FC=1C(=C2C=3N([C@H](CO2)C)C=C(C(C3C1)=O)C(=O)O)N1CCN(CC1)C | C18H20FN3O4
solvent | water | O | H2O
product | (S)-9-fluoro-3-methyl-10-(4-methyl-1-piperazinyl)-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid monohydrate | O.FC=1C(=C2C=3N([C@H](CO2)C)C=C(C(C3C1)=O)C(=O)O)N1CCN(CC1)C | InChI=1S/C18H20FN3O4.H2O/c1-10-9-26-17-14-11(16(23)12(18(24)25)8-22(10)14)7-13(19)15(17)21-5-3-20(2)4-6-21;/h7-8,10H,3-6,9H2,1-2H3,(H,24,25);1H2/t10-;/m0./s1
